US09422331B2
To a rt solution of tert-butyl(3S,4S)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (155 mg, 490 μmol) in DMF (1.22 ml) was added (3-cyclopropylquinolin-4-yl)methyl methanesulfonate (149 mg, 539 μmol) and cesium carbonate (479 mg, 1.47 mmol). The reaction was stirred at rt for 2.5 h, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (145 mg, 60%) as a white solid. MS m/z 498 (MH)+.

reactant | tert-butyl(3S,4S)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 490 μmol, 155 mg | C(#N)C1=CC2=C(NC([C@H]([C@@H](N2)C)NC(OC(C)(C)C)=O)=O)C=C1 | C16H20N4O3
reactant | (3-cyclopropylquinolin-4-yl)methyl methanesulfonate | 539 μmol, 149 mg | CS(=O)(=O)OCC1=C(C=NC2=CC=CC=C12)C1CC1 | C14H15NO3S
reactant | cesium carbonate | 1.47 mmol, 479 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 1.22 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 145 mg, 60% | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2)C)NC(OC(C)(C)C)=O)=O)CC2=C(C=NC3=CC=CC=C23)C2CC2)C=C1 | C29H31N5O3
